US07129238B2
To a solution of (RS)-N-(4-cyano-benzyl)-2-[5-ethoxy-2-fluoro-3-(piperidin-4-yloxy)-phenyl]-2-methoxy-acetamide (300 mg) in THF (3 ml) were added benzenesulfonyl chloride (127 mg) and triethylamine (138 mg). The mixture was stirred over the weekend. Ice-water and EtOAc were added and the pH of the aqueous phase was adjusted to 2. The mixture was extracted with EtOAc. The organic phase was washed with saturated NaHCO3 soln. and water, dried, filtered and evaporated to give (RS)-2-[3-(1-benzenesulfonyl-piperidin-4-yloxy)-5-ethoxy-2-fluoro-phenyl]-N-(4-cyano-benzyl)-2-methoxy-acetamide (396 mg) as an off-white solid. MS 582.2 ([M+H]+).

reactant | (RS)-N-(4-cyano-benzyl)-2-[5-ethoxy-2-fluoro-3-(piperidin-4-yloxy)-phenyl]-2-methoxy-acetamide | 300 mg | C(#N)C1=CC=C(CNC(C(OC)C2=C(C(=CC(=C2)OCC)OC2CCNCC2)F)=O)C=C1 | C24H28FN3O4
reactant | benzenesulfonyl chloride | 127 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | triethylamine | 138 mg | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (RS)-2-[3-(1-benzenesulfonyl-piperidin-4-yloxy)-5-ethoxy-2-fluoro-phenyl]-N-(4-cyano-benzyl)-2-methoxy-acetamide | 396 mg | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)OC=1C(=C(C=C(C1)OCC)C(C(=O)NCC1=CC=C(C=C1)C#N)OC)F | C30H32FN3O6S
